.subckt maji_x1 X A1 A2 A3 VDD VSS
* Abstract subckt: behavioral/LVS placeholder — no MOS instances in the template.
XMAJab0_PA0 maj_ab_n A1 VDD VDD pmos w=2u l=100n
XMAJab0_PB0 maj_ab_n A2 VDD VDD pmos w=2u l=100n
XMAJab0_NB0 maj_ab_n A2 nmid_MAJab0_0 VSS nmos w=1u l=100n
XMAJab0_NA0 nmid_MAJab0_0 A1 VSS VSS nmos w=1u l=100n
XMAJac0_PA0 maj_ac_n A1 VDD VDD pmos w=2u l=100n
XMAJac0_PB0 maj_ac_n A3 VDD VDD pmos w=2u l=100n
XMAJac0_NB0 maj_ac_n A3 nmid_MAJac0_0 VSS nmos w=1u l=100n
XMAJac0_NA0 nmid_MAJac0_0 A1 VSS VSS nmos w=1u l=100n
XMAJbc0_PA0 maj_bc_n A2 VDD VDD pmos w=2u l=100n
XMAJbc0_PB0 maj_bc_n A3 VDD VDD pmos w=2u l=100n
XMAJbc0_NB0 maj_bc_n A3 nmid_MAJbc0_0 VSS nmos w=1u l=100n
XMAJbc0_NA0 nmid_MAJbc0_0 A2 VSS VSS nmos w=1u l=100n
XMAJabi0_P0 maj_ab maj_ab_n VDD VDD pmos w=2u l=100n
XMAJabi0_N0 maj_ab maj_ab_n VSS VSS nmos w=1u l=100n
XMAJaci0_P0 maj_ac maj_ac_n VDD VDD pmos w=2u l=100n
XMAJaci0_N0 maj_ac maj_ac_n VSS VSS nmos w=1u l=100n
XMAJbci0_P0 maj_bc maj_bc_n VDD VDD pmos w=2u l=100n
XMAJbci0_N0 maj_bc maj_bc_n VSS VSS nmos w=1u l=100n
XMAJor10_PA0 pmid_MAJor10_0 maj_ab VDD VDD pmos w=2u l=100n
XMAJor10_PB0 maj_or_n maj_ac pmid_MAJor10_0 VDD pmos w=2u l=100n
XMAJor10_NA0 maj_or_n maj_ab VSS VSS nmos w=1u l=100n
XMAJor10_NB0 maj_or_n maj_ac VSS VSS nmos w=1u l=100n
XMAJor1i0_P0 maj_or maj_or_n VDD VDD pmos w=2u l=100n
XMAJor1i0_N0 maj_or maj_or_n VSS VSS nmos w=1u l=100n
XMAJor20_PA0 pmid_MAJor20_0 maj_or VDD VDD pmos w=2u l=100n
XMAJor20_PB0 maj_y_n maj_bc pmid_MAJor20_0 VDD pmos w=2u l=100n
XMAJor20_NA0 maj_y_n maj_or VSS VSS nmos w=1u l=100n
XMAJor20_NB0 maj_y_n maj_bc VSS VSS nmos w=1u l=100n
XMAJOa0_P0 maj_y_nb maj_y_n VDD VDD pmos w=2u l=100n
XMAJOa0_N0 maj_y_nb maj_y_n VSS VSS nmos w=1u l=100n
XMAJOb0_P0 X maj_y_nb VDD VDD pmos w=2u l=100n
XMAJOb0_N0 X maj_y_nb VSS VSS nmos w=1u l=100n
.ends maji_x1
